US08957080B2
To the solution of 4-chloro-6-methyl-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine (10 g, 32.5. mmol, 1.0 eq) in THF (400 mL), t-BuOK (18.23 g, 163.0 mmol, 5 eq) was added and stirred at RT for 12 h. Sat. NaHCO3 (50 mL) was added and extracted with EtOAc. The organic layers were separated, dried and concentrated to afford 4-chloro-6-methyl-7H-pyrrolo[2,3-d]pyrimidine as a brown solid (2.7 g, 50% in yield).

reactant | 4-chloro-6-methyl-7-(phenylsulfonyl)-7H-pyrrolo[2,3-d]pyrimidine | 10 g, 1.0 eq | ClC=1C2=C(N=CN1)N(C(=C2)C)S(=O)(=O)C2=CC=CC=C2 | C13H10ClN3O2S
reactant | t-BuOK | 163.0 mmol, 18.23 g, 5 eq | CC(C)(C)[O-].[K+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4-chloro-6-methyl-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2)C | C7H6ClN3
